US05665718
7.65 g (47 mmol) of 1,1'-carbonyldiimidazole were added portionwise to a suspension of 12.43 g (45 mmol) of (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxylic acid in 70 ml of dimethylformamide. The resulting pale brown solution was heated to 50° for 45 minutes. Subsequently, the solution was cooled to room temperature and 10.9 ml of aqueous ammonia solution were added dropwise. After stirring for a further 30 minutes the reaction mixture was poured into 100 ml of ice-water and the resulting precipitate was filtered off and rinsed with water, ethanol and subsequently with ether. After drying at 70°/10 Torr there were obtained 11.0 g (89%) of (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxamide as colourless crystals of m.p. >250°.

reactant | 1,1'-carbonyldiimidazole | 47 mmol, 7.65 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxylic acid | 45 mmol, 12.43 g | O=C1C2=C(N3C([C@H]4N1CC4)=C(N=C3)C(=O)O)C=CS2 | C12H9N3O3S
reactant | ammonia | 10.9 ml | N | H3N
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | (S)-8-oxo-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepine-1-carboxamide | 11.0 g, 89% | O=C1C2=C(N3C([C@H]4N1CC4)=C(N=C3)C(=O)N)C=CS2 | C12H10N4O2S
